US04312994
1-Nonyn-4-ol
When 1-hexanal is substituted for 4-octanone in Example 27, there is obtained the title product.

reactant | 1-hexanal | C(CCCCC)=O | C6H12O
reactant | 4-octanone | CCCC(CCCC)=O | C8H16O
product | 1-Nonyn-4-ol | C#CCC(CCCCC)O | C9H16O
